US08975265B2
To a solution of (1-{4-[7-(methoxy-methyl-carbamoyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester [prepared in a manner analogous to that described in Int-24-0] (250 mg, 0.48 mmol) in THF (10 mL) under an atmosphere of argon at 0° C. was added a 3 M solution of methyl-magnesium chloride in THF (0.4 mL, 1.2 mmol, 2.5 equiv). The resulting was stirred for 1 h at 0° C., then for 5 h at room temperature. The resulting material was added to a saturated aqueous NH4Cl solution (10 mL). The resulting mixture was extracted with EtOAc (3×20 mL). The combined organic phases were dried (Na2SO4 anh) and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera; 25 g SNAP cartridge: 100% hexane for 1 min., gradient to 75% hexane/25% EtOAc over 1 min., 75% hexane/25% EtOAc for 3 min., gradient to 50% hexane/50% EtOAc over 1 min., 50% hexane/50% EtOAc for 4.5 min, gradient to 25% hexane/75% EtOAc over 2.5 min., gradient to 100% EtOAc over 2 min., 100% EtOAc for 10.6 min.) to give {1-[4-(7-acetyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (151 mg, 66%):

reactant | (1-{4-[7-(methoxy-methyl-carbamoyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C(N(C)OC)=O)C1C1=CC=CC=C1)=O | C31H34N4O4
reactant | methyl-magnesium chloride | C[Mg]Cl
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.2 mmol, 0.4 mL, 2.5 equiv | C1CCOC1 | C4H8O
product | {1-[4-(7-acetyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 151 mg, 66% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C(C)=O)C1C1=CC=CC=C1)=O | C30H31N3O3
